US06057441
1a,10b-dihydro-6H-dibenzo[3,4:6,7]cyclohept[1,2-b]oxirene (1 g) was dissolved in 15 ml tetrahydrofuran and cooled to 0° C., under N2 atmosphere. Bromo-2-propenyl-magnesium (5,2 ml, 1M in tetrahydrofuran) was added dropwise to the mixture and the mixture was stirred at room temperature and then at 60° C. for two hours. The mixture was cooled to room temperature and quenched with 10% NH4Cl and water, dried and the solvent was evaporated, yielding 0.5 g (48%) of 10,11-dihydro-11-(2-propenyl)-5H-dibenzo[a,d]cyclohepten-10-ol (interm. 4).

reactant | 1a,10b-dihydro-6H-dibenzo[3,4:6,7]cyclohept[1,2-b]oxirene | 1 g | O1C2C1C1=C(CC3=C2C=CC=C3)C=CC=C1 | C15H12O
reactant | Bromo-2-propenyl-magnesium | 1M, 5,2 ml | Br[Mg]CC=C
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 10,11-dihydro-11-(2-propenyl)-5H-dibenzo[a,d]cyclohepten-10-ol | 0.5 g, 48% | C(C=C)C1C2=C(CC3=C(C1O)C=CC=C3)C=CC=C2 | C18H18O
